US08871187B2
350 mg of palladium-on-charcoal at 10% are added to a solution containing 1.5 g (3.5 mmol) of methyl (E)-3-(2-benzyloxy-4-methoxyphenyl)-2-(tert-butoxycarbonyl-amino)acrylate in 15 ml of methanol. After stirring for hours under a hydrogen atmosphere, the reaction medium is filtered through celite and the filtrate is evaporated off. 850 mg of methyl 2-tert-butoxycarbonylamino-3-(2-hydroxy-4-methoxyphenyl)-propanoate are obtained in the form of a grey powder with a yield of 74%.

reactant | methyl (E)-3-(2-benzyloxy-4-methoxyphenyl)-2-(tert-butoxycarbonyl-amino)acrylate | 3.5 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)/C=C(\C(=O)OC)/NC(=O)OC(C)(C)C | C23H27NO6
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-on-charcoal | 350 mg | [Pd] | Pd
product | methyl 2-tert-butoxycarbonylamino-3-(2-hydroxy-4-methoxyphenyl)-propanoate | 850 mg, yield of 74% | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC1=C(C=C(C=C1)OC)O | C16H23NO6
